US06545016B1
Triethylamine (0.07 mL, 0.5 mmol) was added to a solution of 1-(4-aminobutyl)-2-butyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine (150 mg, 0.5 mmol) in dichloromethane (150 mL). The reaction mixture was cooled in an ice bath. 4-fluorobenzenesulfonyl chloride (113 mg, 0.5 mmol) was added and the reaction mixture was removed from the ice bath. The reaction mixture was stirred at ambient temperature for 48 hours. The reaction mixture was washed with water (2×150 mL) and then concentrated under reduced pressure. The resulting residue was recrystallized from methyl acetate and then dried in an Abderhalden drying apparatus to provide 50 mg of N-[4-(4-amino-2-butyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl)butyl]-4-fluorobenzenesulfonamide hydrate as a white crystalline solid, m.p. 133.1-133.7° C.

reactant | Triethylamine | 0.5 mmol, 0.07 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(4-aminobutyl)-2-butyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine | 0.5 mmol, 150 mg | NCCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)CCCC | C16H27N5
reactant | 4-fluorobenzenesulfonyl chloride | 0.5 mmol, 113 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N-[4-(4-amino-2-butyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl)butyl]-4-fluorobenzenesulfonamide hydrate | 50 mg | O.NC1=NC(=C(C2=C1N=C(N2CCCCNS(=O)(=O)C2=CC=C(C=C2)F)CCCC)C)C | InChI=1S/C22H30FN5O2S.H2O/c1-4-5-8-19-27-20-21(15(2)16(3)26-22(20)24)28(19)14-7-6-13-25-31(29,30)18-11-9-17(23)10-12-18;/h9-12,25H,4-8,13-14H2,1-3H3,(H2,24,26);1H2
